US07488833B2
In particular, it opens up the possibility of obtaining enantiomerically pure or enantiomerically enriched (S)-3-methylamino-1-(2-thienyl)-1-propanol in a simple manner starting from 3-methylamino-1-(2-thienyl)-1-propanone. Likewise, enantiomerically pure or enantiomerically enriched (S)-3-methylamino-1-phenyl-1-propanol can be obtained in a simple manner starting from 3-methylamino-1-phenyl-1-propanone.

reactant | (S)-3-methylamino-1-(2-thienyl)-1-propanol | CNCC[C@H](O)C=1SC=CC1 | C8H13NOS
reactant | 3-methylamino-1-(2-thienyl)-1-propanone | CNCCC(=O)C=1SC=CC1 | C8H11NOS
product | (S)-3-methylamino-1-phenyl-1-propanol | CNCC[C@H](O)C1=CC=CC=C1 | C10H15NO
